2133-05-23 06:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: hypoxia,
food stuck in throat
   24 Hour Events:
 ENDOSCOPY - At [**2133-5-22**] 07:46 PM
 NASAL SWAB - At [**2133-5-22**] 08:52 PM
 URINE CULTURE - At [**2133-5-22**] 08:52 PM
   Allergies:
   Klonopin (Oral) (Clonazepam)
   Unknown;
   Penicillins
   Unknown;
   Clozaril (Oral) (Clozapine)
   seizure;
   Latex
   Rash;
   Food Extracts
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2133-5-22**] 07:00 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2133-5-22**] 07:00 PM
   Midazolam (Versed) - [**2133-5-22**] 07:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-5-23**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.6
C (99.7
   HR: 105 (97 - 109) bpm
   BP: 119/69(81) {112/64(76) - 141/122(126)} mmHg
   RR: 32 (24 - 36) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,340 mL
                                                                    294 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,100 mL
                                                                    294 mL
   Blood products:
   Total out:
                                                                    325 mL
                                                                    400 mL
   Urine:
                                                                    325 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,015 mL
                                                                   -106 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, shovel mask
   SpO2: 90%
   ABG: ///28/
   Physical Examination
   GENERAL: Pleasant, well appearing, tachypnec
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus.
   PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD.
   CARDIAC: Regular rhythm, tachycardic. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].  JVP unable to be assessed
   LUNGS: Rhonchorous bilaterally, coughing
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Peripheral Vascular: strong DP and radial pulses
   Labs / Radiology
   223 K/uL
   13.8 g/dL
   116 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.0 mEq/L
   16 mg/dL
   105 mEq/L
   143 mEq/L
   40.9 %
   12.1 K/uL
        [image002.jpg]
                             [**2133-5-23**]  05:09 AM
   WBC
   12.1
   Hct
   40.9
   Plt
   223
   Cr
   1.0
   Glucose
   116
   Other labs: Ca++:9.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   44 y M with h/o developmental delay, obesity who presents with fevers,
   cough, and possible food impaction.
   .
   #) Food impaction - s/p EGD that revealed food in above 14 mm
   esophageal stricture. Does have predisposition for food impaction
   including h/o GE junction stricture, esophagitis, and hiatal hernia.
   Per GI, esophagel stricture does not require further intervention.
   - Educate pt regarding chewing food carefully and cutting food into
   small pieces before swallowing.
   - Continue PPI.
   .
   #) Leukocytosis - WBC elevated to 15.1 without bandemia. No fevers
   while in ICU.  With retrocardiac opacity on CXR, concern for CAP vs
   aspiration PNA, vs aspiration pneumonitis.   Pt denies any
   symptomatology of GI infection or UTI.  He did have several episodes of
   emesis prior to admission, however this was likely caused by food
   impaction as  he has not had any further episodes. Lactate not
   elevated, pressures stable.
   - Continue levofloxacin, flagyl for likely aspiration PNA.
   - UA pending
   - Trend fever curve, tylenol prn.
   - f/u blood cxs, sputum cxs
   .
   #) Hypoxia - Likely secondary to possible aspiration PNA. Pt also
   diffusely wheezy and rhonchorus post EGD.   Pt tends to desat while
   sleeping and may have a component of OSA.  Currently on 6 L NC.
   - Wean O2 as tolerated.
   - Treating for likely aspiration PNA as above.
   - Nebs prn
   .
   #) ARF
 Creatinine improved with 1L bolus fluids o/n. Likely due to
   prerenal etiology given innumberable episodes of emesis prior to
   admission. s/p 1 L IVFs in ED.
   - Trend BUN, Cr.
   - Bolus 1 L NS
   .
   #) Tachycardia - Likely [**12-29**] dehydration, anxiety, pain s/p procedure.
   TSH 7.7.
   - IVFs as above.
   - Monitor on telemetry overnight.
   .
   #) Hypothyroidism
 Elevated TSH, consider decreasing levothyroxine on
   dc.
   .
   #Transaminitis: elevated at baseline.  Suspect medication-related.
   Will follow.
   .
   #) Bipolar disorder - Continue depakote, zyprexa, SSRI. Per group home,
   pt can become very aggressive and assaultive and often has verbal
   outbursts. Group home to provide 1:1 sitter overnight.  If patient
   needs additional supervision during the day the group home should be
   contact[**Name (NI) **] as they may be able to provide a daytime staff member as
   well.
   .
   #) Esophagitis - Continue PPI. No active signs of esophagitis on EGD.
   .
   #) Crohn's disease - Not active. Continue asacol.
   ICU Care
   Nutrition: PO
   Glycemic Control:  n/a
   Lines:
   18 Gauge - [**2133-5-22**] 08:52 PM
   Prophylaxis:
   DVT: will start
   Stress ulcer: PPI, bowel regimen
   VAP:
   Comments:
   Communication:  Comments: with patient. [**First Name8 (NamePattern2) 189**] [**Known lastname 2002**]/mother
   [**Telephone/Fax (1) 7321**]. [**First Name8 (NamePattern2) 1968**] [**Last Name (NamePattern1) 3415**]/sister [**Telephone/Fax (1) 7322**]. Group home
   [**Telephone/Fax (1) 7323**], [**Doctor Last Name 67**].
   Code status: Full
   Disposition: monitor today, to floor when sats stable

2133-05-23 10:14:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains with requirement for supplemental oxygen.
   Develops tachypnea when stimulated, otherwise comfortable.
   Cough.
   No emesis.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Klonopin (Oral) (Clonazepam)
   Unknown;
   Penicillins
   Unknown;
   Clozaril (Oral) (Clozapine)
   seizure;
   Latex
   Rash;
   Food Extracts
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2133-5-22**] 07:00 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2133-5-22**] 07:00 PM
   Midazolam (Versed) - [**2133-5-22**] 07:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: Cough, No(t) Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2133-5-23**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.2
   HR: 103 (97 - 109) bpm
   BP: 109/68(75) {109/64(75) - 141/122(126)} mmHg
   RR: 33 (24 - 36) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,340 mL
                                                                    809 mL
   PO:
                                                                    240 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,100 mL
                                                                    329 mL
   Blood products:
   Total out:
                                                                    325 mL
                                                                    400 mL
   Urine:
                                                                    325 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,015 mL
                                                                    409 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   13.8 g/dL
   223 K/uL
   116 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.0 mEq/L
   16 mg/dL
   105 mEq/L
   143 mEq/L
   40.9 %
   12.1 K/uL
        [image002.jpg]
                             [**2133-5-23**]  05:09 AM
   WBC
   12.1
   Hct
   40.9
   Plt
   223
   Cr
   1.0
   Glucose
   116
   Other labs: Ca++:9.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR [**2133-5-22**]) LLL infiltrate
   Assessment and Plan
   44 yom with developmental delay, esophageal stricture admitted with
   food impaction and pneumonia.
   FOOD IMPACTION -- Esophogeal stricture.   s/p EGD with movement of food
   into stomach.  No further intervention.  Continue PPI.
   PNEUMONIA -- likely aspiration in context of esophogeal food
   impaction.  Continue antimicrobials, MDIs.  Encourage cough.
   HYPOXEMIA -- attributed to pneumonia.  Contineu supplimental oxygen,
   maintain SaO2 > 90%.
   NAUSEA/VOMMITTING -- attributed to food impaction, but now improved.
   ACUTE RENAL FAIULRE -- likely pre-renal. Hydrating with IVF and will
   trend creatinine
   HYPOTHYROIDISM -- elevated TSH.  Will check free T4
   BIPOLAR DISORDER  -- continue home meds
   CROHN'S DISEASE -- continue asacol
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2133-5-22**] 08:52 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2133-05-24 06:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Reports emesis after dinner yesterday but tolerating full diet this
   morning
   Ambulating with aid of PT, desaturates to low 90s on NC
   Allergies:
   Klonopin (Oral) (Clonazepam)
   Unknown;
   Penicillins
   Unknown;
   Clozaril (Oral) (Clozapine)
   seizure;
   Latex
   Rash;
   Food Extracts
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2133-5-22**] 07:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2133-5-23**] 11:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-5-24**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.2
   HR: 88 (85 - 116) bpm
   BP: 125/67(81) {109/55(75) - 141/81(91)} mmHg
   RR: 30 (27 - 43) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  3,090 mL
                  PO:
                                                                  1,690 mL
                  TF:
   IVF:
                                                                  1,400 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                      0 mL
   Urine:
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,090 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   SpO2: 96%
   ABG: 7.42/41/65/25/1
   PaO2 / FiO2: 163
   Physical Examination
   General: moderately obese, alert, pleasant
   HEENT: EOMI, PERRL, oropharynx clear
   CV: RRR S1S2, no murmurs auscultated
   Resp: diffuse rhonchi and crackles, improvement with coughing, shallow
   breaths with poor air entry
   Abd: obese, soft/ NT/ ND +BS
   Ext: +2 DP
   Labs / Radiology
   183 K/uL
   12.5 g/dL
   119 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.7 mEq/L
   11 mg/dL
   106 mEq/L
   143 mEq/L
   36.3 %
   12.3 K/uL
        [image002.jpg]
                             [**2133-5-23**]  05:09 AM
                             [**2133-5-23**]  03:57 PM
                             [**2133-5-24**]  04:25 AM
   WBC
   12.1
   12.3
   Hct
   40.9
   36.3
   Plt
   223
   183
   Cr
   1.0
   0.9
   TCO2
   28
   Glucose
   116
   119
   Other labs: ALT / AST:29/28, Alk Phos / T Bili:92/0.7, LDH:187 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOXEMIA
   44 y M with h/o developmental delay, obesity who presents with fevers,
   cough, and possible food impaction.
   .
   #) Food impaction - s/p EGD that revealed food in above 14 mm
   esophageal stricture. Does have predisposition for food impaction
   including h/o GE junction stricture, esophagitis, and hiatal hernia.
   Per GI, esophagel stricture does not require further intervention.
   - Educate pt regarding chewing food carefully and cutting food into
   small pieces before swallowing.
   - Continue PPI.
   .
   #) Leukocytosis - WBC elevated to 15.1 without bandemia. No fevers
   while in ICU.  With retrocardiac opacity on CXR, concern for CAP vs
   aspiration PNA, vs aspiration pneumonitis.   Pt denies any
   symptomatology of GI infection or UTI.  He did have several episodes of
   emesis prior to admission, however this was likely caused by food
   impaction as  he has not had any further episodes. Lactate not
   elevated, pressures stable.
   - Continue levofloxacin, flagyl for likely aspiration PNA.
   - UA pending
   - Trend fever curve, tylenol prn.
   - f/u blood cxs, sputum cxs
   .
   #) Hypoxia - Likely secondary to possible aspiration PNA. Pt also
   diffusely wheezy and rhonchorus post EGD.   Pt tends to desat while
   sleeping and may have a component of OSA.  Currently on 6 L NC.
   - Wean O2 as tolerated.
   - Treating for likely aspiration PNA as above.
   - Nebs prn
   .
   #) ARF
 Creatinine improved with 1L bolus fluids o/n. Likely due to
   prerenal etiology given innumberable episodes of emesis prior to
   admission. s/p 1 L IVFs in ED.
   - Trend BUN, Cr.
   - Bolus 1 L NS
   .
   #) Tachycardia - Likely [**12-29**] dehydration, anxiety, pain s/p procedure.
   TSH 7.7.
   - IVFs as above.
   - Monitor on telemetry overnight.
   .
   #) Hypothyroidism
 Elevated TSH, consider decreasing levothyroxine on
   dc.
   .
   #Transaminitis: elevated at baseline.  Suspect medication-related.
   Will follow.
   .
   #) Bipolar disorder - Continue depakote, zyprexa, SSRI. Per group home,
   pt can become very aggressive and assaultive and often has verbal
   outbursts. Group home to provide 1:1 sitter overnight.  If patient
   needs additional supervision during the day the group home should be
   contact[**Name (NI) **] as they may be able to provide a daytime staff member as
   well.
   .
   #) Esophagitis - Continue PPI. No active signs of esophagitis on EGD.
   .
   #) Crohn's disease - Not active. Continue asacol.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2133-5-23**] 07:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2133-05-24 12:20:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No further choking episodes.
   Tolerating regular diet.
   Experienced decreased SaO2 last PM, resolved with increased FiO2.
   Experienced emesis following eating last PM,  but no emesis experienced
   after breakfast this AM.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Klonopin (Oral) (Clonazepam)
   Unknown;
   Penicillins
   Unknown;
   Clozaril (Oral) (Clozapine)
   seizure;
   Latex
   Rash;
   Food Extracts
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2133-5-22**] 07:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2133-5-24**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: Cough, No(t) Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2133-5-24**] 12:18 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.5
C (99.5
   HR: 86 (80 - 116) bpm
   BP: 134/68(146) {119/55(75) - 141/81(146)} mmHg
   RR: 30 (26 - 42) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  3,090 mL
                                                                    360 mL
   PO:
                                                                  1,690 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  1,400 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    700 mL
   Urine:
                                                                  1,000 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,090 mL
                                                                   -340 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 95%
   ABG: 7.42/41/65/25/1
   PaO2 / FiO2: 163
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: ),
   Egophony at left base
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.5 g/dL
   183 K/uL
   119 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.7 mEq/L
   11 mg/dL
   106 mEq/L
   143 mEq/L
   36.3 %
   12.3 K/uL
        [image002.jpg]
                             [**2133-5-23**]  05:09 AM
                             [**2133-5-23**]  03:57 PM
                             [**2133-5-24**]  04:25 AM
   WBC
   12.1
   12.3
   Hct
   40.9
   36.3
   Plt
   223
   183
   Cr
   1.0
   0.9
   TCO2
   28
   Glucose
   116
   119
   Other labs: ALT / AST:29/28, Alk Phos / T Bili:92/0.7, LDH:187 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   44 yom with developmental delay, esophageal stricture admitted with
   food impaction and pneumonia.
   FOOD IMPACTION -- Esophogeal stricture.   s/p EGD with movement of food
   into stomach.  No further intervention.  Continue PPI.  Need to
   determine whether requires dilitation of stricture prior to discharge
   --> check with GI service.
   PNEUMONIA -- likely aspiration in context of esophogeal food
   impaction.  Continue antimicrobials, MDIs.  Encourage cough.
   HYPOXEMIA -- attributed to pneumonia.  Continue supplimental oxygen,
   maintain SaO2 > 90%.  Monitor closely.
   NAUSEA/VOMMITTING -- attributed to food impaction, but now improved.
   [**Month (only) 8**] be contribution of severe cough --> vomiting.  Now improving.
   ACUTE RENAL FAIULRE -- likely pre-renal. Improve with hydration.
   ANEMIA -- falling Hct, without clinical evidence for blood loss.  [**Month (only) 8**]
   be dilutional.  Monitor serial Hct, guiac stools.
   HYPOTHYROIDISM -- elevated TSH.  Will check free T4
   BIPOLAR DISORDER  -- continue home meds.
   CROHN'S DISEASE -- continue asacol
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2133-5-23**] 07:20 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2133-05-25 06:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory distress,
something stuck in throat
   24 Hour Events:
   -O2 sats stable
   Allergies:
   Klonopin (Oral) (Clonazepam)
   Unknown;
   Penicillins
   Unknown;
   Clozaril (Oral) (Clozapine)
   seizure;
   Latex
   Rash;
   Food Extracts
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2133-5-22**] 07:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2133-5-24**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-5-25**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.8
   HR: 57 (57 - 94) bpm
   BP: 132/14(35) {114/14(35) - 146/84(146)} mmHg
   RR: 23 (20 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,220 mL
                                                                    350 mL
   PO:
                                                                  1,220 mL
                                                                    350 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                      0 mL
   Urine:
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    220 mL
                                                                    350 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97% on 6.5 L
   ABG: ///26/
   Physical Examination
   PHYSICAL EXAM
   GENERAL: Pleasant, well appearing,in NAD
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].
   LUNGS:  Rhonchorous throughout
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   205 K/uL
   12.9 g/dL
   124 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.8 mEq/L
   14 mg/dL
   105 mEq/L
   141 mEq/L
   38.8 %
   10.4 K/uL
        [image002.jpg]
                             [**2133-5-23**]  05:09 AM
                             [**2133-5-23**]  03:57 PM
                             [**2133-5-24**]  04:25 AM
                             [**2133-5-24**]  04:29 PM
                             [**2133-5-25**]  03:48 AM
                             [**2133-5-25**]  05:20 AM
   WBC
   12.1
   12.3
   10.4
   Hct
   40.9
   36.3
   39.9
   38.8
   Plt
   223
   183
   205
   Cr
   1.0
   0.9
   0.9
   TCO2
   28
   Glucose
   116
   119
   124
   Other labs: ALT / AST:29/28, Alk Phos / T Bili:92/0.7, LDH:187 IU/L,
   Ca++:9.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 POSTURE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOXEMIA
   44 y M with h/o developmental delay, obesity who presents with fevers,
   cough, and possible food impaction.
   .
   #) Aspiration Pneumonia: Patient present with hypoxia, leukocytosis,
   and consolidation on CXR following episode of food impaction.  Pt sats
   in low 90s with NC removed
   - pulmonary status improving: WBC count trending downwards, afebrile,
   decreasing oxygen requirements
   - Continue levofloxacin, flagyl for likely aspiration PNA.
   - f/u blood cxs, sputum cxs
   -cont. to wean O2 as tolerated, nebs PRN
   -encourage pulmonary toilet with incentive spirometry, elevation of
   head of bed
   .
   #) Food impaction - s/p EGD that revealed food in above 14 mm
   esophageal stricture. Does have predisposition for food impaction
   including h/o GE junction stricture, esophagitis, and hiatal hernia.
   Per GI, esophagel stricture does not require further intervention.
   Patient able to tolerate regular diet.
   - Educate pt regarding chewing food carefully and cutting food into
   small pieces before swallowing.
   - Continue PPI
   .
   #) ARF
 Creatinine continues to improve. Likely due to prerenal
   etiology given innumberable episodes of emesis prior to admission. -
   Trend BUN, Cr.
   .
   #) Hypothyroidism
 Elevated TSH to 7.7, consider increasing
   levothyroxine on d/c.
   .
   #Transaminitis: elevated at baseline, improved since admission.
   Suspect medication-related.  Will follow.
   .
   #) Bipolar disorder - Continue depakote, zyprexa, SSRI. Per group home,
   pt can become very aggressive and assaultive and often has verbal
   outbursts. Group home to provide 1:1 sitter if needed.
   .
   #) Esophagitis
 esophageal stricture and hiatal hernia as seen on EGD
   - Continue PPI. No active signs of active esophagitis on EGD.
   .
   #) Crohn's disease - Not active. Continue asacol.
   ICU Care
   Nutrition: PO
   Glycemic Control:  n/a
   Lines:
   18 Gauge - [**2133-5-23**] 07:20 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: omeprazole
   VAP:
   Comments:
   Communication:  Comments: [**First Name8 (NamePattern2) 189**] [**Known lastname 2002**]/mother [**Telephone/Fax (1) 7321**]. [**First Name8 (NamePattern2) 1968**]
   [**Last Name (NamePattern1) 3415**]/sister [**Telephone/Fax (1) 7322**]. Group home [**Telephone/Fax (1) 7323**], [**Doctor Last Name 67**].
   Code status: Full
   Disposition: To floor today

2133-05-25 12:09:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continues to experience cough, somewhat improved.
   Continues with requirement for supplimental oxygen.
   Cough remains, but slowling improving.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Klonopin (Oral) (Clonazepam)
   Unknown;
   Penicillins
   Unknown;
   Clozaril (Oral) (Clozapine)
   seizure;
   Latex
   Rash;
   Food Extracts
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2133-5-22**] 07:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2133-5-25**] 12:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.8
   HR: 84 (57 - 91) bpm
   BP: 140/55(127) {114/14(35) - 146/84(127)} mmHg
   RR: 31 (20 - 35) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.2 kg (admission): 106.8 kg
                  Total In:
                                                                  1,220 mL
                                                                    830 mL
   PO:
                                                                  1,220 mL
                                                                    830 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    300 mL
   Urine:
                                                                  1,000 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    220 mL
                                                                    530 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: ),
   Egophony
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox2, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   12.9 g/dL
   205 K/uL
   124 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.8 mEq/L
   14 mg/dL
   105 mEq/L
   141 mEq/L
   38.8 %
   10.4 K/uL
        [image002.jpg]
                             [**2133-5-23**]  05:09 AM
                             [**2133-5-23**]  03:57 PM
                             [**2133-5-24**]  04:25 AM
                             [**2133-5-24**]  04:29 PM
                             [**2133-5-25**]  03:48 AM
                             [**2133-5-25**]  05:20 AM
   WBC
   12.1
   12.3
   10.4
   Hct
   40.9
   36.3
   39.9
   38.8
   Plt
   223
   183
   205
   Cr
   1.0
   0.9
   0.9
   TCO2
   28
   Glucose
   116
   119
   124
   Other labs: ALT / AST:29/28, Alk Phos / T Bili:92/0.7, LDH:187 IU/L,
   Ca++:9.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   44 yom with developmental delay, esophageal stricture admitted with
   food impaction and pneumonia.
   FOOD IMPACTION -- Esophogeal stricture.   s/p EGD with movement of food
   into stomach.  No further intervention.  Continue PPI.  Need to
   determine whether requires dilitation of stricture prior to discharge
   --> check with GI service.
   PNEUMONIA -- likely aspiration in context of esophogeal food
   impaction.  Continue antimicrobials, MDIs.  Encourage cough.
   HYPOXEMIA -- attributed to pneumonia.  Improving.  Continue
   supplimental oxygen, maintain SaO2 > 90%.  Monitor closely.
   NAUSEA/VOMITTING -- attributed to food impaction, but now improved.
   [**Month (only) 8**] be contribution of severe cough --> vomiting.  Now improving.
   ACUTE RENAL FAIULRE -- likely pre-renal. Improve with hydration.
   ANEMIA -- falling Hct, without clinical evidence for blood loss.  [**Month (only) 8**]
   be dilutional.  Monitor serial Hct, guiac stools.
   HYPOTHYROIDISM -- elevated TSH.  Will check free T4
   BIPOLAR DISORDER  -- continue home meds.
   CROHN'S DISEASE -- continue asacol
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2133-5-23**] 07:20 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Transfer to medical [**Hospital1 **]
   Total time spent: 35 minutes